US03931180
2-Diethylamino-4-methoxy-6-hydroxy-pyrimidine
500 cc of sodium hydroxide solution 1N are added while stirring to 91.5 g (0.5 mol) of 2-diethylamino-4,6-dihydroxy-pyrimidine. The solution is stirred at 50° for a short period and then cooled to 20° . 63 g (0.5 mol) of dimethyl sulphate are added dropwise, over the course of 1 hour, to the clear solution; by further addition of 1N sodium hydroxide solution the pH value is kept between 7.5 and 8. A total of approximately 100 cc of 1N sodium hydroxide solution is additionally required. The mixture is stirred for a further 5 hours at room temperature and the precipitated crystals are filtered off at 5°; then they are washed with water. The crystalline product is subsequently triturated with 1500 cc of carbon tetrachloride by means of a vibration mixer. The undissolved parts are suction filtered and the carbon tetrachloride solution is then concentrated by evaporation, whereupon crystallization commences; 200 cc of petroleum ether are then added.

reactant | 2-diethylamino-4,6-dihydroxy-pyrimidine | 0.5 mol, 91.5 g | C(C)N(C1=NC(=CC(=N1)O)O)CC | C8H13N3O2
reactant | dimethyl sulphate | 0.5 mol, 63 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 1N, approximately 100 cc | [OH-].[Na+]
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 500 cc | [OH-].[Na+]
product | 2-Diethylamino-4-methoxy-6-hydroxy-pyrimidine | C(C)N(C1=NC(=CC(=N1)OC)O)CC | C9H15N3O2
